US08012988B2
2-(4-Chloro-phenoxycarbonylamino)-5-(1-methyl-1H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester (260 mg, 0.57 mmol) was dissolved in dioxane (15 mL). After addition of i-Pr2NEt (294 μL, 3 equiv) and CH3SO2NHNH2 (126 mg, 2 equiv), the solution was stirred for 2 h at 100° C. The solvent was removed in vacuo and the crude product was dried in vacuo for 2 h. DCM (5 mL) was then added and, after sonication, the solution was put in the freezer for 16 h. The resulting solid was filtered off, washed with DCM and dried to afford N-[6-(1-methyl-1H-[1,2,3]triazol-4-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (180 mg, 78%) as an off-white solid. (ESI-MS: m/z 446.5 [M+CH3CN+H]+, rt 3.71 min) 1H-NMR (DMSO-d6, 400 MHz) 8.33 (s, 1H), 8.28 (s, 1H), 7.64 (s, 1H), 4.13 (s, 3H), 3.16 (s, 3H).

reactant | 2-(4-Chloro-phenoxycarbonylamino)-5-(1-methyl-1H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester | 0.57 mmol, 260 mg | COC(C1=C(C=C(C(=C1)C=1N=NN(C1)C)C(F)(F)F)NC(=O)OC1=CC=C(C=C1)Cl)=O | C19H14ClF3N4O4
reactant | i-Pr2NEt | 294 μL, 3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3SO2NHNH2 | 126 mg, 2 equiv | CS(=O)(=O)NN | CH6N2O2S
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-[6-(1-methyl-1H-[1,2,3]triazol-4-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 180 mg, 78% | CN1N=NC(=C1)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C13H11F3N6O4S
